* source COMPARADOR
X_U1A         N00252 N00265 N00319 0 N00293 LM324
V_V1         N00252 0  AC 1
+SIN 0 0.5 9000 0 0 0
R_R1         N00351 N00265  8.4k TC=0,0 
R_R2         0 N00265  500 TC=0,0 
R_R3         0 N00293  1k TC=0,0 
V_V2         N00319 0 9
V_V3         N00351 0 9
